US09376418B2
A mixture of N-(3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(trifluoromethyl)pyrimidin-2-amine (110 mg, 0.290 mmol), tert-butyl 2-(5-bromopyridin-2-yl)acetate (51.3 mg, 0.189 mmol), palladium(II) chloride (dppf) (28 mg, 0.038 mmol) and sodium carbonate (0.2 ml, 0.400 mmol, 2 M) in DMF (2 ml) was evacuated and purged with argon (3×), and then was irradiated in a microwave reactor for 10 minutes at 100° C. The mixture was filtered and purified on reversed phase HPLC to afford tert-butyl 2-(5-(3-methyl-5-((4-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyridin-2-yl)acetate (49.5 mg, 0.089 mmol). MS ESI calc'd. for C23H23F3N4O2 [M+H]+ 445. found 445.

reactant | N-(3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(trifluoromethyl)pyrimidin-2-amine | 0.290 mmol, 110 mg | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | tert-butyl 2-(5-bromopyridin-2-yl)acetate | 0.189 mmol, 51.3 mg | BrC=1C=CC(=NC1)CC(=O)OC(C)(C)C | C11H14BrNO2
reactant | sodium carbonate | 0.400 mmol, 2 M, 0.2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) chloride | 0.038 mmol, 28 mg | [Pd](Cl)Cl
product | tert-butyl 2-(5-(3-methyl-5-((4-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyridin-2-yl)acetate | 0.089 mmol, 49.5 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)CC(=O)OC(C)(C)C | C23H23F3N4O2
